US07582775B2
C. 4-[1-Ethyl-1-(5-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenol
3-(5-Methoxy-benzo[b]thiophen-2-yl)-pentan-3-ol (2.16 g, 8.63 mmol), o-cresol (4.66 g, 43.1 mmol), and BF3-Et2O (1.64 mL, 12.9 mmol) are reacted analogous to Example 1C to afford the title compound (2.29 g, 78%).

reactant | 3-(5-Methoxy-benzo[b]thiophen-2-yl)-pentan-3-ol | 8.63 mmol, 2.16 g | COC1=CC2=C(SC(=C2)C(CC)(CC)O)C=C1 | C14H18O2S
reactant | o-cresol | 43.1 mmol, 4.66 g | C1(=CC=CC=C1O)C | C7H8O
reactant | BF3 Et2O | 12.9 mmol, 1.64 mL | B(F)(F)F.CCOCC
product | 4-[1-Ethyl-1-(5-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenol | 2.29 g, 78% | C(C)C(CC)(C1=CC2=C(S1)C=CC(=C2)OC)C2=CC(=C(C=C2)O)C | C21H24O2S
